US05538976
5-[N-[(2-Bromopyridin-5-yl)methyl]-N-(4cyanophenyl)amino]pyrimidine
Starting compounds: 5-[(4-Cyanophenyl) amino]pyrimidine and 2-bromo-5-(bromomethyl)pyridine

reactant | 5-[(4-Cyanophenyl) amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 2-bromo-5-(bromomethyl)pyridine | BrC1=NC=C(C=C1)CBr | C6H5Br2N
product | 5-[N-[(2-Bromopyridin-5-yl)methyl]-N-(4cyanophenyl)amino]pyrimidine | BrC1=NC=C(C=C1)CN(C1=CC=C(C=C1)C#N)C=1C=NC=NC1 | C17H12BrN5
